US04678786
5-Methyl-6-[2-(3-t-butylamino-2-hydroxypropoxy)phenyl]-3[2H]-pyridazinone
5-Methyl-6-[2-(3-t-butylamino-2-hydroxypropoxy)phenyl]-4,5-dihydro-3[2H]-pyridazinone (preparable from British Patent Specification No. 1488330) (1.3 g) and sodium 3-nitrobenzene sulphonate (0.88 g) were mixed in aqueous sodium hydroxide (0.38 g in 50 ml) and stirred under reflux for 3 hours. The reaction mixture was cooled, neutralised with hydrochloric acid and evaporated under reduced pressure to afford a residue. This was dissolved in water, on standing a solid precipitated which was filtered off (recovered sodium 3-nitrobenzene sulphonate). The filtrate was shaken with chloroform whereupon a white solid precipitated which was collected and dried to afford the title compound (0.4 g).

reactant | 5-Methyl-6-[2-(3-t-butylamino-2-hydroxypropoxy)phenyl]-4,5-dihydro-3[2H]-pyridazinone | 1.3 g | CC1CC(NN=C1C1=C(C=CC=C1)OCC(CNC(C)(C)C)O)=O | C18H27N3O3
reactant | sodium 3-nitrobenzene sulphonate | 0.88 g | [N+](=O)([O-])C=1C=C(C=CC1)S(=O)(=O)[O-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | sodium hydroxide | 50 ml, 0.38 g | [OH-].[Na+]
solvent | water | O | H2O
product | 5-Methyl-6-[2-(3-t-butylamino-2-hydroxypropoxy)phenyl]-3[2H]-pyridazinone | 0.4 g | CC1=CC(NN=C1C1=C(C=CC=C1)OCC(CNC(C)(C)C)O)=O | C18H25N3O3
